US04493823
The preparation of the above compound can be carried out according to the information set forth in the Berichte der deutschen chemischen Gesellschaft 42: 2949, incorporated herein by reference. In the present case, the compound was prepared from the commercially available 3,4-dimethoxyphenylacetic acid. A mixture of 115 gm (587 mmol) of 3,4-dimethoxyphenylacetic acid, 1052 gm (2.35 mol) of 57% hydroiodic acid, and 14 gm of red phosphorus was agitated for 1.5 hours at 95° C. and for an additional 1.5 hours at 105° to 110° C., during which time the calculated amount (166.5 gm) of methyliodide was distilled off. After cooling of the mixture, removal of the red phosphorus by filtration, evaporation of the solution, and taking up of the residue in ether, the ether solution was treated with concentrated NaHSO3 solution and activated charcoal. After drying of the light-yellow solution with Na2SO4 and evaporation, the residue was suspended in methylene chloride, the residual water was removed by azeotropic distillation, and, after the suspension was cooled, the solid product was removed by suction filtration and dried at 50° C. An amount of 63 gm of 3,4-dihydroxyphenylacetic acid, with a melting point of 126° to 129° C., was obtained (64% of theory).

reactant | 3,4-dimethoxyphenylacetic acid | COC=1C=C(C=CC1OC)CC(=O)O | C10H12O4
reactant | 3,4-dimethoxyphenylacetic acid | 587 mmol, 115 gm | COC=1C=C(C=CC1OC)CC(=O)O | C10H12O4
reactant | hydroiodic acid | 2.35 mol, 1052 gm | I | HI
reactant | methyliodide | 166.5 gm | CI | CH3I
product | 3,4-dihydroxyphenylacetic acid | 63 gm | OC=1C=C(C=CC1O)CC(=O)O | C8H8O4
